US08957093B2
Step 9: (S)-4′-((5-(1-(4-Bromophenyl)ethylcarbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)biphenyl-2-carboxylic acid
A mixture of (S)-tert-butyl 4′-((5-(1-(4-bromophenyl)ethylcarbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)biphenyl-2-carboxylate (20 mg, 0.03 mmol) in TFA/DCM (1 mL, 30%) was stirred at rt for 2 h. The completion of the reaction was monitored by anal. HPLC. The solvent was removed to obtain the crude which was purified by reverse phase prep-HPLC (MeOH/Acetonitrile/water) to obtain the title compound. ESI-MS (m/z): 581/583 [M+H]+.

reactant | (S)-tert-butyl 4′-((5-(1-(4-bromophenyl)ethylcarbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)biphenyl-2-carboxylate | 0.03 mmol, 20 mg | BrC1=CC=C(C=C1)[C@H](C)NC(=O)C=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C)C | C37H37BrN2O3
solvent | TFA DCM | 1 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | (S)-4′-((5-(1-(4-Bromophenyl)ethylcarbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)biphenyl-2-carboxylic acid | BrC1=CC=C(C=C1)[C@H](C)NC(=O)C=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C)C | C33H29BrN2O3
